US04613676
Z-Phe-His-Leu-Val-Ala-1(S)-benzyl-3-cyano-2(R,S)-hydroxypropyl amide
In a manner analogous to that described in Example 1, using as starting materials 142 mg of Z-Phe-His-OH, 140 mg of H-Leu-Val-Ala-1(S)-benzyl-3-cyano-2(R,S)-hydroxypropyl amide, 54 mg of HOBt and 91 mg of DCCI, the title compound is obtained after flash chromatography (65 g of silica gel 60, 40-63 μm, eluant system B7). Rf (B7)=0.32.

reactant | Z-Phe-His-OH | 142 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C23H24N4O5
reactant | H-Leu-Val-Ala 1(S)-benzyl-3-cyano-2(R,S)-hydroxypropyl amide | 140 mg | N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)O.C(C1=CC=CC=C1)[C@@H](C(CC#N)O)[NH-]
reactant | HOBt | 54 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | 91 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Z-Phe-His-Leu-Val-Ala 1(S)-benzyl-3-cyano-2(R,S)-hydroxypropyl amide | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1.C(C1=CC=CC=C1)[C@@H](C(CC#N)O)[NH-] | InChI=1S/C37H49N7O8.C11H13N2O/c1-22(2)16-28(34(47)44-31(23(3)4)35(48)40-24(5)36(49)50)41-33(46)30(18-27-19-38-21-39-27)42-32(45)29(17-25-12-8-6-9-13-25)43-37(51)52-20-26-14-10-7-11-15-26;12-7-6-11(14)10(13)8-9-4-2-1-3-5-9/h6-15,19,21-24,28-31H,16-18,20H2,1-5H3,(H,38,39)(H,40,48)(H,41,46)(H,42,45)(H,43,51)(H,44,47)(H,49,50);1-5,10-11,13-14H,6,8H2/q;-1/t24-,28-,29-,30-,31-;10-,11?/m00/s1
